US06958408B2
A mixture composed of 7.65 [lacuna] of HSi(CH3)2C8F17 (15.8 mmol) and 62 mmol of bromine in 25 ml of CCl4 is stirred at 60° C. for 18 hours. After removing the volatile compounds under reduced pressure, a liquid is obtained and is subjected to flash distillation. 8.35 g of BrSi(CH3)2C8F17 are obtained (yield 95%, which exists in the form of a pale pink liquid) [sic].

reactant | HSi(CH3)2C8F17 | 15.8 mmol | [SiH](C)(C)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F | C10H7F17Si
reactant | bromine | 62 mmol | BrBr | Br2
solvent | CCl4 | 25 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | BrSi(CH3)2C8F17 | 8.35 g, yield 95% | Br[Si](C)(C)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F | C10H6BrF17Si
